US07405236B2
d] (6-{[5-(4-Trifluoromethyl-phenyl)-pent-4-ynoylamino]-methyl}-indol-1-yl)-acetic acid ethyl ester
In analogy to the procedure described for example 1 b], 5-(4-trifluoromethyl-phenyl)-pent-4-ynoic acid (1H-indol-6-ylmethyl)-amide was reacted with bromo-acetic acid ethyl ester in the presence of cesium carbonate and potassium iodide in acetonitrile under reflux conditions to give the title compound as off-white crystals.

reactant | 5-(4-trifluoromethyl-phenyl)-pent-4-ynoic acid (1H-indol-6-ylmethyl)-amide | N1C=CC2=CC=C(C=C12)CNC(CCC#CC1=CC=C(C=C1)C(F)(F)F)=O | C21H17F3N2O
reactant | bromo-acetic acid ethyl ester | C(C)OC(CBr)=O | C4H7BrO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | (6-{[5-(4-Trifluoromethyl-phenyl)-pent-4-ynoylamino]-methyl}-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)CNC(CCC#CC1=CC=C(C=C1)C(F)(F)F)=O)=O | C25H23F3N2O3
